US08193199B2
To a solution of 2,8-dichloroquinoline-3-carbaldehyde (1 eq) in DMF (0.25 M) was added phenol (1.5 eq) and K2CO3 (2.0 eq) at rt and the mixture was stirred for 3 h at rt. The mixture was diluted with water, extracted with EtOAc (2 times) and the combined organic layers were washed with water (2 times), dried over Na2SO4, filtered, and concentrated under reduced pressure. The crude product was purified by column chromatography on a Redi-Sep™ column using 0 to 40% gradient of EtOAc in hexane to provide 8-chloro-2-phenoxyquinoline-3-carbaldehyde.

reactant | 2,8-dichloroquinoline-3-carbaldehyde | 1 eq | ClC1=NC2=C(C=CC=C2C=C1C=O)Cl | C10H5Cl2NO
reactant | phenol | 1.5 eq | C1(=CC=CC=C1)O | C6H6O
reactant | K2CO3 | 2.0 eq | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 0.25 M | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 8-chloro-2-phenoxyquinoline-3-carbaldehyde | ClC=1C=CC=C2C=C(C(=NC12)OC1=CC=CC=C1)C=O | C16H10ClNO2
